US08202873B2
3′-(2,5-Difluoro-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Dissolve 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (153 mg, 0.50 mmol) in N,N-dimethylacetamide (2 mL, nitrogen purged) under nitrogen. Add potassium carbonate (166 mg, 1.20 mmol) then 2,5-difluorobenzeneboronic acid (95 mg, 0.60 mmol) and purge with nitrogen for 10 min. Add deoxygenated water (1 mL) and tetrakis(triphenylphosphine)palladium(0) (0.003 g, 0.003 mmol) then purge with nitrogen for 10 min. Heat at 115° C. for between 24 and 42 hr. Cool to room temperature, add water (5 mL) and extract with DCM (4×5 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®. Concentrate the filtrate and purify by SCX-2® chromatography washing with methanol then eluting with approximately 2 M ammonia in methanol. Purify (silica gel chromatography, eluting with 0:100 to 10:90 methanol:DCM). Further purify by low pH reverse phase HPLC, followed by passage through an SCX-2® ion exchange cartridge (wash with methanol, elute with 7M ammonia in methanol). Concentrate to provide the free base. Dissolve the free base in acetonitrile and add 2M aqueous HCl solution. Add water and lyophilize to give the title compound as a yellow solid (25 mg, 12%). MS (ES): m/z=385 [M+H]+.

reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.50 mmol, 153 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | potassium carbonate | 1.20 mmol, 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-difluorobenzeneboronic acid | 0.60 mmol, 95 mg | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | HCl | 2M | Cl | ClH
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.003 mmol, 0.003 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | 3′-(2,5-Difluoro-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 25 mg, 12% | Cl.FC1=C(C=C(C=C1)F)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | InChI=1S/C20H22F2N6.ClH/c1-14-15(12-25-26(14)2)13-27-7-9-28(10-8-27)20-19(23-5-6-24-20)17-11-16(21)3-4-18(17)22;/h3-6,11-12H,7-10,13H2,1-2H3;1H
